US09340556B2
N-butyllithium (232 mL, 464 mmol) was added slowly to a solution of tert-butyl (3,4-dimethoxyphenyl)carbamate (50 g, 193 mmol) in Tetrahydrofuran (THF) (500 mL) under N2 at −20° C. After being stirred for 2 h at −10° C. to −20° C., the mixture was cooled to −78° C. and diluted with Tetrahydrofuran (THF) (500 mL), followed by addition of solid carbon dioxide. The mixture was allowed to warm up to r.t. and was then partitioned between water and Et2O. The aqueous layer was acidified with 6N HCl to pH 1-2 and extracted with Et2O. The organic layer was separated, dried over Na2SO4 and evaporated. The crude product was purified by recrystallization from i-Pr2O to afford 6-((tert-butoxycarbonyl)amino)-2,3-dimethoxybenzoic acid (27.9 g, 94 mmol, 48.5% yield) as a white solid. LCMS: (M+H)+: 319.9.

reactant | N-butyllithium | 464 mmol, 232 mL | [Li+].CCC[CH2-]
reactant | tert-butyl (3,4-dimethoxyphenyl)carbamate | 193 mmol, 50 g | COC=1C=C(C=CC1OC)NC(OC(C)(C)C)=O | C13H19NO4
reactant | carbon dioxide | C(=O)=O | CO2
solvent | Tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
solvent | Tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
product | 6-((tert-butoxycarbonyl)amino)-2,3-dimethoxybenzoic acid | 94 mmol, 27.9 g, 48.5% yield | C(C)(C)(C)OC(=O)NC1=CC=C(C(=C1C(=O)O)OC)OC | C14H19NO6
